US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (120 mg) is dissolved in ethyl acetate (1 ml) and thereto is added 4N—HCl/ethyl acetate (0.09 m). The solvent is concentrated under reduced pressure, ether and hexane are added thereto and the precipitated powder is filtered to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester hydrochloride (112 mg). MS (m/z): 669 [M+H]+.

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 120 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCOCC1)CC | C31H34F6N6O4
reactant | HCl ethyl acetate | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester hydrochloride | 112 mg | Cl.C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCOCC1)CC | InChI=1S/C31H34F6N6O4.ClH/c1-4-21-16-23(27-24(6-7-26(41-27)45-3)43(21)29(44)47-5-2)40-28-38-17-25(42-8-10-46-11-9-42)22(39-28)14-18-12-19(30(32,33)34)15-20(13-18)31(35,36)37;/h6-7,12-13,15,17,21,23H,4-5,8-11,14,16H2,1-3H3,(H,38,39,40);1H/t21-,23+;/m1./s1
